US04252976
Preparation of dimethyl thien-3-ylmalonate
Potassium hydroxide (0.14 g, 2.0 mmol) in ethanol (50 ml) was saturated with hydrogen sulphide at 0° C. To this was added methyl-2-methoxycarbonyl-5-chloro-3-chloromethylpenta-2,4-dienoate (0.62 g, 2.45 mmol) and addition of hydrogen sulphide was continued for 1 hour at room temperature. The reaction mixture was stirred for a further 4 hours. Potassium hydroxide (0.20 g, 2.8 mmol) was added and hydrogen sulphide passed for 0.5 hours. The reaction mixture was stirred at room temperature for 16 hours, diluted with water and ether extracted. The extracts were washed with saturated brine, dried and evaporated to give the title compound (0.39 g, 74%), b.p. 96°-98° C./0.3 mm. δ (CDCl3) 3.77 (6H, s, 2×CH3), 4.82 (1H, s, CH), 7.11-7.48 (3H, m, thienyl protons). νmax (film) 1740 cm-1C9H10O4S requires M,214. Found: M+, 214.

reactant | Potassium hydroxide | 2.0 mmol, 0.14 g | [OH-].[K+]
reactant | hydrogen sulphide | S | H2S
reactant | methyl-2-methoxycarbonyl-5-chloro-3-chloromethylpenta-2,4-dienoate | 2.45 mmol, 0.62 g | COC(C(=C(C=CCl)CCl)C(=O)OC)=O | C9H10Cl2O4
reactant | Potassium hydroxide | 2.8 mmol, 0.20 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | dimethyl thien-3-ylmalonate | 0.39 g, 74% | S1C=C(C=C1)C(C(=O)OC)C(=O)OC | C9H10O4S
